US08623857B2
Nitrobenzene Int-15b was prepared by following similar procedures to those described in Step A of Example 2 using 4-bromo-1-fluoro-2-nitrobenzene and tert-butyl piperidin-4-ylmethylcarbamate as starting materials.

reactant | 4-bromo-1-fluoro-2-nitrobenzene | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | tert-butyl piperidin-4-ylmethylcarbamate | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
product | Nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
